US08685969B2
1. 1-(1H-Indol-6-yl)pyrrolidin-3-ol
To a pressure tube containing a light orange, homogeneous solution of 6-bromo-1H-indole (1.01 g, 5.15 mmol) in DMSO (8.58 mL) purged with nitrogen were added pyrrolidin-3-ol (4.49 g, 51.5 mmol), cesium carbonate (3.36 g, 10.30 mmol), copper(I) iodide (0.098 g, 0.515 mmol) and (S)-pyrrolidine-2-carboxylic acid (0.652 g, 5.67 mmol). The pressure tube was sealed and stirred at 95° C. for 5.5 hr. The reaction was cooled to room temperature and immersed in an ice-water bath. Ice water (20 mL) was added, and the mixture was stirred for 10 min. It was extracted with EtOAc (4×75 mL), and the organic layers were combined, dried over MgSO4, and concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 120 g column eluting with 20-100% EtOAc/hexanes. Appropriate fractions were collected and concentrated in vacuo to give the desired product (0.5215 g, 2.58 mmol, 50.1% yield) as an off-white solid.

reactant | 6-bromo-1H-indole | 5.15 mmol, 1.01 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | pyrrolidin-3-ol | 51.5 mmol, 4.49 g | N1CC(CC1)O | C4H9NO
reactant | cesium carbonate | 10.30 mmol, 3.36 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-pyrrolidine-2-carboxylic acid | 5.67 mmol, 0.652 g | N1[C@@H](CCC1)C(=O)O | C5H9NO2
solvent | DMSO | 8.58 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.515 mmol, 0.098 g | [Cu]I
product | 1-(1H-Indol-6-yl)pyrrolidin-3-ol | 2.58 mmol, 0.5215 g, 50.1% yield | N1C=CC2=CC=C(C=C12)N1CC(CC1)O | C12H14N2O
